US05972975
Step C: 4-Chloro-6-carbomethoxy-2-aminopyridine
4-Chloropyridine-2,6-dicarboxylic acid, dimethyl ester (230 mg, 1 mmol) was converted to the monoacyl hydrazide by adding one-half equivalent of anyhydrous hydrazine. The monohydrazide was converted to the monoacyl azide by the methodology described in step B of Example 35. The title compound was obtained by applying the methodology described in step C of Example 35.

reactant | 4-Chloropyridine-2,6-dicarboxylic acid, dimethyl ester | 1 mmol, 230 mg | ClC1=CC(=NC(=C1)C(=O)OC)C(=O)OC | C9H8ClNO4
reactant | hydrazine | NN | H4N2
product | 4-Chloro-6-carbomethoxy-2-aminopyridine | ClC1=CC(=NC(=C1)C(=O)OC)N | C7H7ClN2O2
